US04234594
1-Acetyl-2[1-(3-trifluoromethylphenyl)-3-methyl-5-pyrazolyl] amino-2-imidazoline
5-Amino-1-(3-trifluoromethylphenyl)-3-methyl pyrazole HCl (20.0 g.) and 1-acetyl-3-imidazolinone (11.1 g.) were reacted as described in Example I to give 15.0 g. product. mp 173°-175°

reactant | 5-Amino-1-(3-trifluoromethylphenyl)-3-methyl pyrazole HCl | 20.0 g | Cl.NC1=CC(=NN1C1=CC(=CC=C1)C(F)(F)F)C
reactant | 1-acetyl-3-imidazolinone | 11.1 g | C(C)(=O)N1C(N=CC1)=O | C5H6N2O2
product | 1-Acetyl-2[1-(3-trifluoromethylphenyl)-3-methyl-5-pyrazolyl] amino-2-imidazoline | C(C)(=O)N1C(=NCC1)NC1=CC(=NN1C1=CC(=CC=C1)C(F)(F)F)C | C16H16F3N5O
